US06372883B1
5 g (5.25 mmol) of 4-methylbenzhydrylamine resin were swollen in dimethylformamide and excess solvent was drained from the resin. The resin was then resuspended in dimethylformamide containing 3.4 g (5.48 mmol) of 5-[2-[1(RS)-[[N-[(9-fluorenyl)methoxycarbonyl]-L-leucyl]amino]propyl]-4(RS),5,5-trimethyl-1,3,2-dioxaborolan-4-yl]-3(RS)-methylvaleric acid and 3 g (8.2 mmol) of 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate. Thereto were added 3.0 ml (16.5 mmol) of diisopropylamine. The resulting mixture was agitated for 100 minutes and the resin was then drained and washed three times with dimethylformamide. The resin was then resuspended in dimethylformamide containing 5 ml (54.8 mmol) of acetic anhydride and 11.5 ml (110 mmol) of N-methylmorpholine. The mixture was agitated for 30 minutes and the resin was then drained. The resin was then resuspended in dimethylformamide containing 5 ml (54.8 mmol) of acetic anhydride and 11.5 ml (110 mmol) of N-methylmorpholine. The mixture was agitated for 30 minutes and the resin was then drained and washed three times with dimethylformamide, twice with ethyl acetate, twice with dichloromethane and twice with diethyl ether and then dried under a vacuum. After drying there was obtained 6 g of 5-[2-[1(RS)-[[N-[(9-fluorenyl)methoxycarbonyl]-L-leucyl]amino]propyl]-4-(RS),5,5-trimethyl-1,3 ,2-dioxoborolan-4-yl]-3(RS)-methyl-N-(RS)-(4-methylphenyl)-benzyl]valeramide-polystyrene conjugate as a pale brown solid (0.25 mmol/g loading estimated by quantitation of dibenzofulvene at 301 nM).

reactant | 4-methylbenzhydrylamine | 5.25 mmol, 5 g | CC1=CC=C(C(C2=CC=CC=C2)N)C=C1 | C14H15N
reactant | 5-[2-[1(RS)-[[N-[(9-fluorenyl)methoxycarbonyl]-L-leucyl]amino]propyl]-4(RS),5,5-trimethyl-1,3,2-dioxaborolan-4-yl]-3(RS)-methylvaleric acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC(C)C)C(=O)NC(CC)B1OC(C(O1)(C)CCC(CC(=O)O)C)(C)C | C35H49BN2O7
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 8.2 mmol, 3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylamine | 16.5 mmol, 3.0 ml | C(C)(C)NC(C)C | C6H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-methylmorpholine | 110 mmol, 11.5 ml | CN1CCOCC1 | C5H11NO
reactant | N-methylmorpholine | 110 mmol, 11.5 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 54.8 mmol, 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 54.8 mmol, 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5.48 mmol, 3.4 g | CN(C=O)C | C3H7NO
product | dibenzofulvene | C=C1C2=CC=CC=C2C3=CC=CC=C13 | C14H10
